US06664269B2
A stirred mixture of homophthalimide (15 g, 93 mmol), benzaldehyde (9.9 g, 93 mmol), piperidine (9 ml) and acetic acid (465 ml) was heated under reflux for 1 hour, cooled to ambient temperature and diluted with water (500 ml). The resulting solid was collected by filtration, washed with water and dried in vacuo to give 4-benzylidenehomophthalimide (18.5 g, 82%) as a solid; m.pt. 173-177° C. Used crude for the next step.

reactant | homophthalimide | 93 mmol, 15 g | C1(CC=2C(C(N1)=O)=CC=CC2)=O | C9H7NO2
reactant | benzaldehyde | 93 mmol, 9.9 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 9 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 465 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 4-benzylidenehomophthalimide | 18.5 g, 82% | C(C1=CC=CC=C1)=C1CC2=C(CC(=O)NC2=O)C=C1 | C16H13NO2
